US06130232
(3) Synthesis of N-[1-(4-methyl-2-pyridylmethyl)piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-phenylacetamide
75 Milligrams of 4-methyl-2-pyridinecarbaldehyde, 58.3 mg of N-(piperidin-4-yl)-2-cyclopentyl-2-hydroxy-2-phenylacetamide and 12 mg of acetic acid were dissolved in 10 ml of dichloroethane. To the solution 68 mg of sodium triacetoxyborohydride was added at room temperature, followed by an hour's stirring at the same temperature. The reaction mixture was poured into saturated aqueous sodium hydrogencarbonate solution, extracted with chloroform, dried over anhydrous magnesium sulfate and removed of the solvent by reduced pressure distillation. The residue was purified by preparative thin layer chromatography [Kieselgel™ 60F254Art 5744 (Merck), chloroform/methanol=9/1] to give 49.5 mg of the title compound as a white solid.

reactant | 4-methyl-2-pyridinecarbaldehyde | CC1=CC(=NC=C1)C=O | C7H7NO
reactant | N-(piperidin-4-yl)-2-cyclopentyl-2-hydroxy-2-phenylacetamide | 58.3 mg | N1CCC(CC1)NC(C(C1=CC=CC=C1)(O)C1CCCC1)=O | C18H26N2O2
reactant | sodium triacetoxyborohydride | 68 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
solvent | acetic acid | 12 mg | C(C)(=O)O | C2H4O2
product | N-[1-(4-methyl-2-pyridylmethyl)piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-phenylacetamide | 49.5 mg | CC1=CC(=NC=C1)CN1CCC(CC1)NC(C(C1=CC=CC=C1)(O)C1CCCC1)=O | C25H33N3O2
